US05998436
Synthesis of 2-amino-4-bromo-5-chloro-3-fluoro-6-(1,1,3,3-tetramethylbutylamino)pyridine
To 6 ml of N-methylpyrrolidone were added 2.4 g of 2-amino-4-bromo-5-chloro-3,6-difluoropyridine and 3.5 g of 1,1,3,3-tetramethylbutylamine, and the mixture was stirred at 140° C. for 82 hours and allowed to cool. 50 ml of the mixed solution of benzene and n-hexane (1:1, v/v) was added, and the solution was washed twice with 400 ml of distilled water. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The brown oily residue was subjected to column chromatography (silica gel, 30 g; eluent: chloroform:n-hexane, 1:1) to obtain 1.6 g of the title compound as a colorless oily residue.

reactant | N-methylpyrrolidone | 6 ml | CN1C(CCC1)=O | C5H9NO
reactant | 2-amino-4-bromo-5-chloro-3,6-difluoropyridine | 2.4 g | NC1=NC(=C(C(=C1F)Br)Cl)F | C5H2BrClF2N2
reactant | 1,1,3,3-tetramethylbutylamine | 3.5 g | CC(CC(C)(C)C)(C)N | C8H19N
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | n-hexane | CCCCCC | C6H14
product | 2-amino-4-bromo-5-chloro-3-fluoro-6-(1,1,3,3-tetramethylbutylamino)pyridine | 1.6 g | NC1=NC(=C(C(=C1F)Br)Cl)NC(CC(C)(C)C)(C)C | C13H20BrClFN3
